### PR TITLE
Equations 161 through 167: The Searle Identities

### PR DESCRIPTION
**Pull request by MohanadAhmed**
Relatively straight forward rewrites to clearout the Searle Identities. 

- $(1 + A⁻¹)⁻¹ = A(A + 1)⁻¹$
- $(A + BBᵀ)⁻¹B = A⁻¹B(1 + BᵀA⁻¹B)⁻¹$
- $(A⁻¹ + B⁻¹)⁻¹ = A⬝(A + B)⁻¹B$ and $(A⁻¹ + B⁻¹)⁻¹ = B(A + B)⁻¹A$
- $A - A(A + B)⁻¹A = B - B(A + B)⁻¹B$ was proved by using the helper lemma: $A - A(A + B)⁻¹A = (B⁻¹ + A⁻¹)⁻¹$
- $A⁻¹ + B⁻¹ = A⁻¹(A + B)B⁻¹$
- $(1 + AB)⁻¹ = 1 - A(1 + BA)⁻¹B$
- $(1 + AB)⁻¹⬝A = A(1 + BA)⁻¹$

The adjugate file here is the the one in Pull Request #7 So I think better to consider after merging #7.

### CODE REVIEW

File: src/matrix_cookbook/3_inverses.lean [hunk 1]
```diff
@@ -87,13 +89,79 @@ end
 
 /-! ### The Searle Set of Identities -/
 
-lemma eq_161 : (1 + A⁻¹)⁻¹ = A⬝(A + 1)⁻¹ := sorry
-lemma eq_162 : (A + Bᵀ⬝B)⁻¹⬝B = A⁻¹⬝B⬝(1 + Bᵀ⬝A⁻¹⬝B)⁻¹:= sorry
-lemma eq_163 : (A⁻¹ + B⁻¹)⁻¹ = A⬝(A + B)⁻¹⬝B ∧ (A⁻¹ + B⁻¹)⁻¹ = B⬝(A + B)⁻¹⬝A := sorry
-lemma eq_164 : A - A⬝(A + B)⁻¹⬝A = B - B⬝(A + B)⁻¹⬝B := sorry
-lemma eq_165 : A⁻¹ + B⁻¹ = A⁻¹⬝(A + B)⁻¹⬝B⁻¹ := sorry
-lemma eq_166 : (1 + A⬝B)⁻¹ = 1 - A⬝(1 + B⬝A)⁻¹⬝B := sorry
-lemma eq_167 : (1 + A⬝B)⁻¹⬝A = A⬝(1 + B⬝A)⁻¹ := sorry
```
Comment (eric-wieser) [inline src/matrix_cookbook/3_inverses.lean:96]: I think 161, 163, 164, and 165 are true more generally for `ring.inverse` and `is_unit A`; on arbitrary rings, not just on matrices. Can you prove those versions in a for-mathlib file?

File: src/matrix_cookbook/3_inverses.lean [hunk 2]
```diff
@@ -87,13 +89,79 @@ end
...
+    nonsing_inv_mul A hA, matrix.one_mul, add_comm],
+end
+
+lemma eq_166 {A: matrix n m ℂ} {B: matrix m n ℂ}: 
+  (1 + A⬝B)⁻¹ = 1 - A⬝(1 + B⬝A)⁻¹⬝B :=
+begin
+  rw eq_159 1 A B, 
+  simp only [inv_one, matrix.one_mul, matrix.mul_one],
+end
+lemma eq_167 {hAB: is_unit (1 + B⬝A).det}: (1 + A⬝B)⁻¹⬝A = A⬝(1 + B⬝A)⁻¹ :=
```
Comment (eric-wieser) [inline src/matrix_cookbook/3_inverses.lean:157]: Is this one true for when `A` and `B` are rectangular? I think it should be.

Comment (MohanadAhmed) [reply src/matrix_cookbook/3_inverses.lean]: You are right. The proof stays the same I just added the variable declarations.

File: src/matrix_cookbook/3_inverses.lean (hunk 1 above)
Comment (MohanadAhmed) [reply src/matrix_cookbook/3_inverses.lean:96]: I am not sure what instance type to use for `ring.inverse` but I used a `division_ring` with `group` to have associativity

File: src/matrix_cookbook/for_mathlib/ring.inverse.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
+import data.matrix.basic
+import linear_algebra.matrix.nonsingular_inverse
+
+variables {R: Type*}[division_ring R][group R]
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/ring.inverse.lean:12]: This is nonsense, it means "let `R` have two unrelated multiplication operators"!

File: src/matrix_cookbook/for_mathlib/ring.inverse.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+variables (A B C : R)
+
+lemma eq_161 {hA: A ≠ 0}{hAadd1: A + 1 ≠ 0}: 
+  (1 + A⁻¹)⁻¹ = A*(A + 1)⁻¹ := begin
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/ring.inverse.lean:16]: I meant
```suggestion
  ring.inverse (1 + ring.inverse A) = A*ring.inverse (A + 1) := begin
```
and assuming `[ring R]` (after all, a matrix is not a `division_ring`!)

Comment (MohanadAhmed) [reply src/matrix_cookbook/for_mathlib/ring.inverse.lean:16]: Where can I get associativity?

Comment (MohanadAhmed) [reply src/matrix_cookbook/for_mathlib/ring.inverse.lean:16]: > `ring` gives you associativity
OK.
Sorry I wanted to edit that message but seems I messed it up somehow

File: src/matrix_cookbook/for_mathlib/ring.inverse.lean (hunk 3 above)
Comment (MohanadAhmed) [reply src/matrix_cookbook/for_mathlib/ring.inverse.lean:12]: Yes you are right! Perhaps I should explain my conundrum better, but this will be long:

## Attempt 1

The following code Does not typecheck for `^-1` i.e. the inverse is not defined. 
```
import data.matrix.basic
import linear_algebra.matrix.nonsingular_inverse
variables {R: Type*}[ring R]
variables (A B C : R)
lemma eq_161 {hA: A ≠ 0}{hAadd1: A + 1 ≠ 0}: 
  (1 + A⁻¹)⁻¹ = A*(A + 1)⁻¹ := begin
  apply inv_eq_of_mul_eq_one_right,
  rw ← mul_assoc,
  rw [←  mul_assoc, add_mul, inv_mul_cancel hA, one_mul, mul_inv_cancel hAadd1],
end
```

```
failed to synthesize type class instance for
R : Type u_1,
_inst_1 : ring R,
A : R,
hA : A ≠ 0,
hAadd1 : A + 1 ≠ 0
⊢ has_inv R
```

## Attempt 2
So I try:

```
import data.matrix.basic
import linear_algebra.matrix.nonsingular_inverse

variables {R: Type*}[ring R]
variables (A B C : R)

lemma eq_161b {hA: A ≠ 0}{hAadd1: A + 1 ≠ 0}: 
  ring.inverse (1 + ring.inverse A) = A* (ring.inverse (A + 1)) := begin
  apply inv_eq_of_mul_eq_one_right,
  rw ← mul_assoc,
  rw [←  mul_assoc, add_mul, inv_mul_cancel hA, one_mul, mul_inv_cancel hAadd1],
end
``` 
which fails with 

```
invalid apply tactic, failed to unify
  ring.inverse (1 + ring.inverse A) = A * ring.inverse (A + 1)
with
  ?m_3⁻¹ = ?m_4
state:
R : Type u_1,
_inst_1 : ring R,
A : R,
hA : A ≠ 0,
hAadd1 : A + 1 ≠ 0
⊢ ring.inverse (1 + ring.inverse A) = A * ring.inverse (A + 1)
```
## Attempt 3

So then I say perhaps the operation `ring.inverse` is not the same as `inv`.  But I find a lemma `ring.inverse_eq_inv`, so I try to add that `rw ring.inverse_eq_inv A` but that does not work! I get the error message:
```
failed to synthesize type class instance for
R : Type u_1,
_inst_1 : ring R,
A : R,
hA : A ≠ 0,
hAadd1 : A + 1 ≠ 0
⊢ group_with_zero R
state:
R : Type u_1,
_inst_1 : ring R,
A : R,
hA : A ≠ 0,
hAadd1 : A + 1 ≠ 0
⊢ ring.inverse (1 + ring.inverse A) = A * ring.inverse (A + 1)
```

## Attempt 4
So then I say perhaps I am missing some instances. I try `field` in place of ring. Ofcourse it works! So I try to find the "minimum" that works. `ring`  alone does not work.
I check lemma `inv_eq_of_mul_eq_one_right`, turns out it needs `division_monoid` instance. So I add that. Well it does not work! 
.....
## Many random stuff in the middle.

## Attempt n
In the middle mul_assoc refuses to see an obvious term so I add the group term so .... more random attempts
After a while of random attempts I get to what you see above!!

This is turning into more of a rant so I will stop here. And end with a question?

## What instances should I start with on R!!!

File: src/matrix_cookbook/for_mathlib/ring.inverse.lean [hunk 5]
```diff
@@ -0,0 +1,209 @@
...
+variables (A B C U V : R)
+/- TODO: WORK IN PROGRESS Cleanup assumptions to minimize them!!!-/
+lemma ring_right_mul_inj (hA: is_unit A): function.injective (λ (x : R), A * x)  :=
+begin
+  intros x y,
+  simp only, 
+  rw [← ring.inverse_mul_eq_iff_eq_mul, ring.inverse_mul_cancel_left],
+  simp only [imp_self],
+  assumption',
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/ring.inverse.lean:22]: This exists already as `is_unit.is_regular.right` or similar

File: src/matrix_cookbook/for_mathlib/ring.inverse.lean [hunk 6]
```diff
@@ -0,0 +1,209 @@
...
+  intro h,
+  apply_fun (λ x, A * x),
+  simp only,
+  rw [ring.mul_inverse_cancel,  eq_comm],
+  assumption',
+  apply ring_right_mul_inj, 
+  assumption',
+end
+
+lemma is_unit_if_ring_inverse_mul_eq_one:
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/ring.inverse.lean:35]: The naming convention is to use `of` not `if`
```suggestion
lemma is_unit_of_ring_inverse_mul_eq_one: 
```

File: src/matrix_cookbook/for_mathlib/linear_algebra/matrix/nonsing_inverse.lean [hunk 7]
```diff
@@ -0,0 +1,56 @@
+/-
+Copyright (c) 2023 Mohanad Ahmed. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mohanad Ahmed
+-/
+
+import linear_algebra.matrix.nonsingular_inverse
+
+/-! # Missing lemmas about injectivity of invertible matrix multipliciations -/
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/linear_algebra/matrix/nonsing_inverse.lean:9]: Just to confirm, I think these are genuinely missing.

**Comment by MohanadAhmed** [comment]
@eric-wieser Can you merge this now?

File: src/matrix_cookbook/3_inverses.lean [hunk 8]
```diff
@@ -86,13 +88,80 @@ end
...
+  rw [← matrix.mul_inv_rev, matrix.add_mul, matrix.one_mul, mul_nonsing_inv_cancel_right B _ hB],
+end
+
+lemma eq_164 {hA: is_unit A.det} {hB: is_unit B.det}: 
+  A - A⬝(A + B)⁻¹⬝A = B - B⬝(A + B)⁻¹⬝B :=
+begin
+  rw [eq_164_one_side A B hA hB, add_comm A, eq_164_one_side B A hB hA, add_comm],
+end
+
+lemma eq_165 {hA: is_unit A.det} {hB: is_unit B.det} : A⁻¹ + B⁻¹ = A⁻¹⬝(A + B)⬝B⁻¹ :=
```
Comment (eric-wieser) [inline src/matrix_cookbook/3_inverses.lean:144]: I made https://github.com/leanprover-community/mathlib4/pull/13215 to capture the more general case of this one upstream
